US07265144B2
Preparation of 2-(2-methylphenyl)-4,5,6,7-tetrahydro-2H-indazol-3-amine
To a solution of (2-methylphenyl)hydrazine hydrochloride (464 mg, 2.92 mmol) in ethanol (2 mL) was added 2-oxocyclohexanecarbonitrile (300 mg, 2.44 mmol), and the mixture was heated to 60° C. and stirred for 16 h. The flask was then cooled to rt and the solvent was evaporated to give a solid. The crude residue of 2-(2-methylphenyl)-4,5,6,7-tetrahydro-2H-indazol-3-amine hydrochloride (449 mg, 70%) was used in the next step with no further purification. ES-MS m/z 228.2 (MH+); HPLC RT (min) 1.22.

reactant | (2-methylphenyl)hydrazine hydrochloride | 2.92 mmol, 464 mg | Cl.CC1=C(C=CC=C1)NN
reactant | 2-oxocyclohexanecarbonitrile | 2.44 mmol, 300 mg | O=C1C(CCCC1)C#N | C7H9NO
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 2-(2-methylphenyl)-4,5,6,7-tetrahydro-2H-indazol-3-amine | CC1=C(C=CC=C1)N1N=C2CCCCC2=C1N | C14H17N3
